* /home/drako/esim-workspace/andand/andand.cir

* u1  /sheet60da3111/b0 /sheet60da3111/a0 /sheet60da3111/m0 port
xm2  net-_m1-pad3_ /sheet60da3111/a0 net-_m2-pad3_ net-_m2-pad3_ mosfet_n
xm3  net-_m2-pad3_ /sheet60da3111/b0 gnd gnd mosfet_n
xm1  /sheet60da3111/vdd /sheet60da3111/a0 net-_m1-pad3_ /sheet60da3111/vdd mosfet_p
xm4  /sheet60da3111/vdd /sheet60da3111/b0 net-_m1-pad3_ /sheet60da3111/vdd mosfet_p
xm5  /sheet60da3111/m0 net-_m1-pad3_ gnd gnd mosfet_n
xm6  /sheet60da3111/vdd net-_m1-pad3_ /sheet60da3111/m0 /sheet60da3111/vdd mosfet_p
v1 /sheet60da3111/vdd gnd  dc 0
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
