* /home/drako/esim-workspace/halfadder/halfadder.cir

.include and_gate.sub
.include xor_gate.sub
* u1  carry sum port
* u2  a0 b0 port
x2 a0 b0 carry and_gate
x1 a0 b0 sum xor_gate

v1 a0 0 pulse(0 1.8 0 0.1n 0.1n 5n 10n) 
v2 b0 0 pulse(0 1.8 0 0.1n 0.1n 10n 20n)

.tran 0.1n 80n

* Control Statements 
.control
run
plot a0 b0
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
