* Subcircuit xor_gate
.subckt xor_gate a b yout 

.lib "~/eSim-Workspace/prelayout/sky130_fd_pr/models/sky130.lib.spice" tt

* /home/drako/applications/esim-2.1/library/subcircuitlibrary/xor_gate/xor_gate.cir
xm5  net-_m10-pad3_ b net-_m5-pad3_ net-_m5-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm8  net-_m10-pad1_ b_bar net-_m10-pad3_ net-_m10-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm7  vdd b net-_m10-pad1_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm10  net-_m10-pad1_ a net-_m10-pad3_ net-_m10-pad1_ sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm6  net-_m5-pad3_ a_bar gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm11  net-_m10-pad3_ b_bar net-_m11-pad3_ net-_m11-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm12  net-_m11-pad3_ a gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm1  b_bar b gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm3  vdd b b_bar vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm2  a_bar a gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm4  vdd a a_bar vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm13  yout net-_m10-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.5 m=1
xm14  vdd net-_m10-pad3_ yout vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
xm9  vdd a_bar net-_m10-pad1_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5 m=1
vdd vdd gnd  dc 3.3v
* Control Statements

.ends xor_gate
