* /home/drako/esim-workspace/halfadder1/halfadder1.cir

.include xor_gate.sub
* u1  /a /b /sum /carry port
x1 /a /b /carry xor_gate
x1 /a /b /sum xor_gate
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
