* Subcircuit halfadder
.subckt halfadder net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 
* /home/drako/applications/esim-2.1/library/subcircuitlibrary/halfadder/halfadder.cir
.include xor_gate.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ xor_gate
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ xor_gate
* Control Statements

.ends halfadder
