* Subcircuit halfadder
.subckt halfadder a b sum carry
* /home/drako/applications/esim-2.1/library/subcircuitlibrary/halfadder/halfadder.cir
.include xor_gate.sub
.include and_gate.sub

* u1  a b sum carry port
x1 a b carry and_gate
x2 a b sum xor_gate

* Control Statements

.ends halfadder
